US04390697
A solution of 200 g of ethyl 4-(3-cyanopropyl)-piperazine-1-carboxylate and 20 g of cobaltous chloride hexahydrate in 2 liters of methanol was cooled in ice and 125 g of sodium borohydride were added in portions with stirring at a temperature of less than 10° C. When the addition was complete, the mixture was stirred at 20° C. for 16 hours and then ~300 ml of concentrated HCl were added thereto until the black suspension turned blue. The solvent was removed under vacuum and the residue was dissolved in 2 liters of water and filtered. The filtrate was adjusted to a pH of 8 with potassium carbonate and was washed with 200 ml of carbon tetrachloride to remove non-polar impurities. The pH of the solution was increased to 9-10 by the addition of more potassium carbonate and then was saturated with sodium chloride. The mixture was extracted 6 times with 250 ml of chloroform and the combined extracts were dried over MgSO4 and evaporated to dryness to obtain 30 g of ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate in the form of a light brown oil which was distilled under reduced pressure to give a pure fraction with a boiling point of 135°-140° C. at 0.3 mm Hg.

reactant | ethyl 4-(3-cyanopropyl)-piperazine-1-carboxylate | 200 g | C(#N)CCCN1CCN(CC1)C(=O)OCC | C11H19N3O2
reactant | sodium borohydride | 125 g | [BH4-].[Na+]
reactant | HCl | ~300 ml | Cl | ClH
solvent | methanol | 2 liters | CO | CH4O
product | ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate | 30 g | NCCCCN1CCN(CC1)C(=O)OCC | C11H23N3O2
